US09290476B2
(1-Methyl-1H-imidazol-5-yl)(2-(trifluoromethyl)pyridin-4-yl)methanol
A solution of isopropylmagnesium chloride/lithium chloride complex (1.3 M in THF, 10.6 mL, 13.8 mmol) was added dropwise by syringe to a solution of 4-bromo-2-(trifluoromethyl)pyridine (3.12 g, 13.8 mmol) in dry THF (50 mL) at 0° C. After 30 min, a solution of 1-methyl-1H-imidazole-5-carbaldehyde in THF (1.38 g, 12.5 mmol) was added to the Grignard solution by syringe at 0° C. The reaction mixture was warmed to room temperature over 2 h after which it was quenched with saturated aqueous ammonium chloride solution. The mixture was partitioned between water and ethyl acetate. The separated aqueous phase was further extracted with ethyl acetate and washed with saturated aqueous NaCl solution. The organic phase was dried (MgSO4), filtered, and concentrated. The crude product was purified by flash column chromatography (silica gel, 0-10% MeOH-DCM) to provide the title compound.

reactant | isopropylmagnesium chloride lithium chloride | 13.8 mmol, 1.3 M, 10.6 mL | C(C)(C)[Mg]Cl.[Cl-].[Li+]
reactant | 4-bromo-2-(trifluoromethyl)pyridine | 13.8 mmol, 3.12 g | BrC1=CC(=NC=C1)C(F)(F)F | C6H3BrF3N
reactant | 1-methyl-1H-imidazole-5-carbaldehyde | CN1C=NC=C1C=O | C5H6N2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 12.5 mmol, 1.38 g | C1CCOC1 | C4H8O
product | (1-Methyl-1H-imidazol-5-yl)(2-(trifluoromethyl)pyridin-4-yl)methanol | CN1C=NC=C1C(O)C1=CC(=NC=C1)C(F)(F)F | C11H10F3N3O
